US05185448
1-Allyloxypiperidin-4-yl Stearate
Repeating the general procedure of Example 1 using 1-hydroxy-piperdin-4-yl stearate, potassium carbonate and allyl bromide in ethanol solvent yields the title compound.

reactant | 1-hydroxy-piperdin-4-yl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC1CCN(CC1)O | C23H45NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | ethanol | C(C)O | C2H6O
product | 1-Allyloxypiperidin-4-yl Stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC1CCN(CC1)OCC=C | C26H49NO3
